### PR TITLE
[Merged by Bors] - feat: the deprecated syntax (`cases'` + `refine'`) linter

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
This PR adds the linter against `cases'`, operating exactly analogously to the linter against `refine'`. Because of the similarity, the two linters are merged into one extensible **deprecated syntax linter**.

### CODE REVIEW

File: MathlibTest/CasesLinter.lean [hunk 1]
```diff
@@ -0,0 +1,13 @@
...
+set_option linter.cases true
+/--
+warning: The `cases'` tactic is discouraged: please strongly consider using `obtain`, `rcases` or `cases` instead.
+note: this linter can be disabled with `set_option linter.cases false`
+---
+warning: The `cases'` tactic is discouraged: please strongly consider using `obtain`, `rcases` or `cases` instead.
+note: this linter can be disabled with `set_option linter.cases false`
+-/
+#guard_msgs in
+example {a : (True ∨ True) ∨ (True ∨ True)}: True := by
```
Comment (grunweg) [inline MathlibTest/CasesLinter.lean:12]:
```suggestion
example (a : (True ∨ True) ∨ (True ∨ True)) : True := by

File: Mathlib/Tactic/Linter/CasesLinter.lean [hunk 2]
```diff
@@ -0,0 +1,54 @@
+/-
+Copyright (c) 2025 Jeremy Tan. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Jeremy Tan, Damiano Testa
+-/
+
```
Comment (grunweg) [inline Mathlib/Tactic/Linter/CasesLinter.lean:6]:
```suggestion

File: MathlibTest/CasesLinter.lean [hunk 3]
```diff
@@ -0,0 +1,13 @@
...
+  cases' a with b b <;> cases' b <;> trivial
```
Comment (grunweg) [inline MathlibTest/CasesLinter.lean:13]: I wonder if a test covering e.g. cases' in a sub-goal could be useful. Up to you.

File: lakefile.lean [hunk 4]
```diff
@@ -29,6 +29,7 @@ require "leanprover-community" / "plausible" @ git "main"
   (as well as `Archive`, `Counterexamples` and `test`). -/
 abbrev mathlibOnlyLinters : Array LeanOption := #[
   -- The `docPrime` linter is disabled: https://github.com/leanprover-community/mathlib4/issues/20560
+  ⟨`linter.cases, true⟩,
```
Comment (grunweg) [inline lakefile.lean:32]: Please move this line above the comment, thanks!

File: Mathlib/Tactic/Linter/CasesLinter.lean [hunk 5]
```diff
@@ -0,0 +1,54 @@
...
+The "cases" linter flags uses of the `cases'` tactic, which is a backward-compatible version of
+Lean 3's `cases` tactic. Unlike `obtain`, `rcases` and Lean 4's `cases`, variables introduced by
+`cases'` are not required to be separated by case, which hinders readability.
+
+This linter is an incentive to discourage uses of `cases'`, without being a ban.
+-/
+
+open Lean Elab
+
+namespace Mathlib.Linter
```
Comment (grunweg) [inline Mathlib/Tactic/Linter/CasesLinter.lean:22]: I think this linter should be in the `Mathlib.Linter.Style` namespace, and the option be called `linter.style.cases` (or even `linter.style.cases'`). I know you're just going off the refine' linter; that linter should also be moved.

**Review by grunweg — COMMENTED** [review]
I have a couple of minor comments; see below.
Most importantly, you should also import this linter in `Mathlib.Init`: this will ensure every file in mathlib runs this syntax linter.

**Comment by Parcly-Taxel** [comment]
> Most importantly, you should also import this linter in `Mathlib.Init`: this will ensure every file in mathlib runs this syntax linter.

I can't do that; `cases'` is defined in `Mathlib.Tactic.Cases` (unlike `refine'`), and importing the linter in `Mathlib.Init` causes a build cycle.

**Comment by adomani** [comment]
Regardless of how the import situation will be fixed, I think that this is a great situation where we can merge the two linters, the `refine` and the `cases` linter.

The two options should be initialized, if at least one is `true`, then the relevant nodes are accumulated in two arrays, and depending on which option is active, the linter emits the appropriate warnings.

**Comment by Parcly-Taxel** [comment]
> The two options should be initialized, if at least one is `true`, then the relevant nodes are accumulated in two arrays, and depending on which option is active, the linter emits the appropriate warnings.

Before I perform the linter merge I would have to fix the import problem first.

**Comment by adomani** [comment]
Do you need to import the `cases'` tactic in the linter?  Can you not use `` `....cases`` for the node-matching?  The tests can then import the actual tactic and make sure that the name of the node is correct.

**Comment by Parcly-Taxel** [comment]
>Can you not use `` `....cases `` for the node-matching? The tests can then import the actual tactic and make sure that the name of the node is correct.

How does that work?

File: Mathlib/Tactic/Linter/CasesLinter.lean [hunk 6]
```diff
@@ -0,0 +1,53 @@
...
+  defValue := false
+  descr := "enable the cases linter"
+}
+
+/-- `getCases' t` returns all usages of the `cases'` tactic in the input syntax `t`. -/
+partial
+def getCases' : Syntax → Array Syntax
+  | stx@(.node _ kind args) =>
+    let rargs := (args.map getCases').flatten
+    if kind == ``Mathlib.Tactic.cases' then rargs.push stx else rargs
```
Comment (adomani) [inline Mathlib/Tactic/Linter/CasesLinter.lean:37]:
```suggestion
    if kind == `Mathlib.Tactic.cases' then rargs.push stx else rargs
```
This does the matching, without checking that the name exists.

The test file can still import the `cases'` linter, though.

Note: I'm not at a computer, so I cannot really test this.

Comment (Parcly-Taxel) [reply Mathlib/Tactic/Linter/CasesLinter.lean]: Committed the change.

File: MathlibTest/CasesLinter.lean (hunk 3 above)
Comment (Parcly-Taxel) [reply MathlibTest/CasesLinter.lean:14]: I think this is fine enough.

File: Mathlib/Tactic/Linter/CasesLinter.lean [hunk 7]
```diff
@@ -0,0 +1,55 @@
+/-
+Copyright (c) 2025 Jeremy Tan. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Jeremy Tan, Damiano Testa
+-/
+import Lean.Elab.Command
+-- Import this linter explicitly to ensure that
```
Comment (grunweg) [inline Mathlib/Tactic/Linter/CasesLinter.lean:7]: I'm partial to removing this comment also: this is enforced by a mathlib linter anyway.

File: Mathlib/Tactic/ENatToNat.lean [hunk 8]
```diff
@@ -65,10 +65,11 @@ elab "cases_first_enat" : tactic => focus do
       let name : Name := `enat_to_nat_aux
       setGoals [← g.rename decl.fvarId name]
       let x := mkIdent name
-      evalTactic (← `(tactic| cases' $x:ident using ENat.recTopCoe))
+      evalTactic (← `(tactic| cases $x:ident using ENat.recTopCoe))
```
Comment (grunweg) [inline Mathlib/Tactic/ENatToNat.lean:68]: Can you say why this change is fine? To make a guess, is it because it only uses `cases'` with a single ident, and `cases` and `cases'` have the same behaviour in this case? Same question below.

File: Mathlib/Tactic/Linter/RefineLinter.lean [hunk 9]
```diff
@@ -23,15 +23,15 @@ This linter is an incentive to discourage uses of `refine'`, without being a ban
...
+namespace Mathlib.Linter.Style
 
 /-- The "refine" linter flags usages of the `refine'` tactic.
 
 The tactics `refine` and `refine'` are similar, but they handle meta-variables slightly differently.
 This means that they are not completely interchangeable, nor can one completely replace the other.
 However, `refine` is more readable and (heuristically) tends to be more efficient on average.
 -/
-register_option linter.refine : Bool := {
+register_option linter.style.refine : Bool := {
```
Comment (grunweg) [inline Mathlib/Tactic/Linter/RefineLinter.lean:34]: I *think* the other PRs put the `register_option` outside of the style namespace. I'm not sure if that's a meaningful detail.

**Review by grunweg — COMMENTED** [review]
Almost there! In case (ahem) the `ENatToNat` question ends up stalling this; feel free to split out the `refine'` change, I'm happy to approve this right away.

File: Mathlib/Tactic/ENatToNat.lean (hunk 8 above)
Comment (Parcly-Taxel) [reply Mathlib/Tactic/ENatToNat.lean:68]: Yes, that's correct (and the case names in the second replacement correspond with the given inductor). Where am I supposed to put this information?

File: Mathlib/Tactic/Linter/RefineLinter.lean (hunk 9 above)
Comment (Parcly-Taxel) [reply Mathlib/Tactic/Linter/RefineLinter.lean:34]: I'll just leave it as you suggested.

**Comment by grunweg** [comment]
I just pushed another comment, re-instating the comment about the header linter: I think it's better to do as the other syntax linters in Init. (Sorry for the back and forth.) With that fixed, I think the linter could be merged. There is one comment about merging this with the refine linter.
@adomani Would you like to see this in this PR, or could this be a follow-up? (I'm fine either way.)
maintainer merge

**Comment by adomani** [comment]
!bench

File: Mathlib/Tactic/Linter/CasesLinter.lean [hunk 10]
```diff
@@ -0,0 +1,55 @@
...
+/-- `getCases' t` returns all usages of the `cases'` tactic in the input syntax `t`. -/
+partial
+def getCases' : Syntax → Array Syntax
+  | stx@(.node _ kind args) =>
+    let rargs := (args.map getCases').flatten
+    if kind == `Mathlib.Tactic.cases' then rargs.push stx else rargs
+  | _ => default
+
+@[inherit_doc linter.style.cases]
+def casesLinter : Linter where run := withSetOptionIn fun _stx => do
```
Comment (adomani) [inline Mathlib/Tactic/Linter/CasesLinter.lean:43]:
```suggestion
def casesLinter : Linter where run := withSetOptionIn fun stx => do
```
since this is actually used later.  Prefixing it with `_` suggests that it is unused.

File: Mathlib/Tactic/Linter/CasesLinter.lean [hunk 11]
```diff
@@ -0,0 +1,55 @@
...
+  unless Linter.getLinterValue linter.style.cases (← getOptions) do
+    return
+  if (← MonadState.get).messages.hasErrors then
+    return
+  for stx in (getCases' _stx) do
```
Comment (adomani) [inline Mathlib/Tactic/Linter/CasesLinter.lean:48]:
```suggestion
  for stx' in (getCases' stx) do
```

File: Mathlib/Tactic/Linter/CasesLinter.lean [hunk 12]
```diff
@@ -0,0 +1,55 @@
...
+    Linter.logLint linter.style.cases stx
```
Comment (adomani) [inline Mathlib/Tactic/Linter/CasesLinter.lean:49]:
```suggestion
    Linter.logLint linter.style.cases stx'
```

**Review by adomani — APPROVED** [review]
Thanks!

I just left a couple of comments renaming variables.

I'd wait to make sure that there is no significant impact on performance, and would then leave unification of the linters to a later PR.

**Comment by adomani** [comment]
I am testing out the "merger" of `refine'` and `cases'` at #22746.

File: Mathlib/Tactic/Linter/SupersededTacticLinter.lean [hunk 13]
```diff
@@ -0,0 +1,85 @@
...
+`cases'` are not required to be separated by case, which hinders readability.
+-/
+register_option linter.style.cases : Bool := {
+  defValue := false
+  descr := "enable the cases linter"
+}
+
+/-- `getSupersededTactics t` returns all usages of superseded tactics in the input syntax `t`. -/
+partial
+def getSupersededTactics : Syntax → Array (Nat × Syntax × MessageData)
```
Comment (adomani) [inline Mathlib/Tactic/Linter/SupersededTacticLinter.lean:55]:
```suggestion
def getSupersededTactics : Syntax → Array (SyntaxNodeKind × Syntax × MessageData)
```
How about using the `SyntaxNodeKind` itself to index what tactic it is?

**Comment by adomani** [comment]
Also, if neither option is true (e.g. possibly for downstream projects), could you add a check that prevents scanning the syntax?

Simply something that computes the `or` of the two options and, if false, `return`s.

File: Mathlib/Tactic/Linter/SupersededTacticLinter.lean (hunk 13 above)
Comment (Parcly-Taxel) [reply Mathlib/Tactic/Linter/SupersededTacticLinter.lean]: @adomani all done.

**Comment by adomani** [comment]
!bench

File: MathlibTest/DeprecatedSyntaxLinter.lean [hunk 14]
```diff
@@ -0,0 +1,34 @@
...
+  refine' (by refine' .intro)
+
+/--
+warning: The `cases'` tactic is discouraged: please strongly consider using `obtain`, `rcases` or `cases` instead.
+note: this linter can be disabled with `set_option linter.style.cases false`
+---
+warning: The `cases'` tactic is discouraged: please strongly consider using `obtain`, `rcases` or `cases` instead.
+note: this linter can be disabled with `set_option linter.style.cases false`
+-/
+#guard_msgs in
```
Comment (grunweg) [inline MathlibTest/DeprecatedSyntaxLinter.lean:32]: Optional: copy this test-case, but with `linter.style.cases also false - and assert that nothing is printed.

**Review by grunweg — COMMENTED** [review]
Thanks!
maintainer delegate

File: MathlibTest/DeprecatedSyntaxLinter.lean (hunk 14 above)
Comment (Parcly-Taxel) [reply MathlibTest/DeprecatedSyntaxLinter.lean:31]: Done.

**Comment by kim-em** [comment]
bors merge
